US04780556
To the same reactor as used in Example 1 were added 82.2 g (0.25 mole) of octadecyldimethylsilanol, 330 g of 1,2-dichloroethane and 1.83 g (0.025 mole) of N,N-dimethylformamide, and 27.2 g (0.275 mole) of phosgene was introduced into the resulting mixture at a temperature of from 40° to 45° C. over 2 hours with stirring. After completion of the introduction, the same procedure as in Example 7 was carried out to obtain 75.5 g of octadecyldimethylchlorosilane.

reactant | octadecyldimethylsilanol | 0.25 mole, 82.2 g | C(CCCCCCCCCCCCCCCCC)[Si](O)(C)C | C20H44OSi
reactant | N,N-dimethylformamide | 0.025 mole, 1.83 g | CN(C=O)C | C3H7NO
reactant | phosgene | 0.275 mole, 27.2 g | C(=O)(Cl)Cl | CCl2O
solvent | 1,2-dichloroethane | 330 g | ClCCCl | C2H4Cl2
product | octadecyldimethylchlorosilane | 75.5 g, Yield: 87% | C(CCCCCCCCCCCCCCCCC)[Si](Cl)(C)C | C20H43ClSi
